.include TSMC_180nm.txt
.param SUPPLY=1.8
.param LAMBDA=0.09u
.param width_N={20*LAMBDA}
.param Wp={width_N*2}
.global gnd vdd
VDS vdd gnd 1.8
Vind d gnd PULSE(0 1.8 4.1us 1ps 1ps 4us 8us)
Vclk clk gnd PULSE(0 1.8 1us 1ps 1ps 1us 2us)

.subckt notg o f 
M1 o f gnd gnd CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M2 o f vdd vdd CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
.ends notg

.subckt ff q d clk
M1 n1 d vdd vdd CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M2 dn1 clk n1 n1 CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M3 dn1 d gnd gnd CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

M7 dn clk vdd vdd CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M8 dn dn1 n3 n3 CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M9 n3 clk gnd gnd CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

M4 q1 dn vdd vdd CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M5 q1 clk n2 n2 CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M6 n2 dn gnd gnd CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
Xnot2 q q1 notg
.ends ff

Xff q d clk ff

.tran 0.01us 32us
.control
run
set curplottitle= Kavya-P-2024102001-flipflop
meas tran Q_delay_fall TRIG v(clk) VAL=0.9 RISE=3 TARG v(Q) val=0.9 FALL=1
meas tran Q_delay_rise TRIG v(clk) VAL=0.9 RISE=4 TARG v(Q) VAL=0.9 RISE=1
let tp2q = (Q_delay_rise + Q_delay_fall)/2
print tp2q;

meas tran tsu_r TRIG v(D) VAL=0.9 RISE=4 TARG v(Xff1.A) VAL=0.9 FALL=3
meas tran tsu_f TRIG v(D) VAL=0.9 FALL=3 TARG v(Xff1.A) VAL=0.9 RISE=2
let tsu = (tsu_r + tsu_f)/2
print tsu;
plot d clk
plot q
.endc
