.include TSMC_180nm.txt
.param SUPPLY=1.8
.param LAMBDA=0.09u
.param width_N={20*LAMBDA}
.param Wp={width_N*2}
.global gnd vdd
VDS vdd gnd 1.8
Vina0 a0 gnd 1.8
Vina1 a1 gnd 1.8
Vina2 a2 gnd 1.8
Vina3 a3 gnd 1.8
Vina4 a4 gnd 1.8
Vinb0 b0 gnd 1.8
Vinb1 b1 gnd 0
Vinb2 b2 gnd 0
Vinb3 b3 gnd 0
Vinb4 b4 gnd 0
Vclk clk gnd PULSE(0 1.8 2n 1p 1p 2n 4n)

.subckt dyno con cin pi gi clk
M1 cin pi con con CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M2 con gi n1 n1 CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M3 n1 clk gnd gnd CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M4 con clk vdd vdd CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
.ends dyno 

.subckt ff q d clk
M1 n1 d vdd vdd CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M2 dn1 clk n1 n1 CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M3 dn1 d gnd gnd CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

M7 dn clk vdd vdd CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M8 dn dn1 n3 n3 CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M9 n3 clk gnd gnd CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

M4 q1 dn vdd vdd CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M5 q1 clk n2 n2 CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M6 n2 dn gnd gnd CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
Xnot2 q q1 notg
.ends ff

.subckt notg o f 
M1 o f gnd gnd CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M2 o f vdd vdd CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
.ends notg

.subckt andg o a b
M1 on a vdd vdd CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M2 on b vdd vdd CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M3 on a n1 n1 CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M4 n1 b gnd gnd CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
Xo o on notg
.ends andg

.subckt xor o a b
Xa an a notg
Xb bn b notg
M1p p1 a vdd vdd CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M2p o bn p1 p1 CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M3p p2 an vdd vdd CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M4p o b p2 p2 CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M1n o a n1 n1 CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M2n n1 b gnd gnd CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M3n o an n2 n2 CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M4n n2 bn gnd gnd CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
.ends xor

.subckt onecla cout si ai bi cin clk
Xaf qa ai clk ff
Xbf qb bi clk ff
Xp pi qa qb xor
Xg gi qa qb andg
Xcl clkn clk notg
Xm cout cin pi gi clkn dyno
Xc ci cin notg
Xs qs pi ci xor
Xsf si qs clk ff
.ends onecla

Xcif ci 0 clk ff
Xcn cin ci notg
X1 co0 s0 a0 b0 cin clk onecla
X2 co1 s1 a1 b1 co0 clk onecla
X3 co2 s2 a2 b2 co1 clk onecla
X4 co3 s3 a3 b3 co2 clk onecla
X5 co4 s4 a4 b4 co3 clk onecla
Xcon co4n co4 notg
Xcof cout co4n clk ff

.tran 0.1n 80n
.control
run
plot V(clk) V(s0)+2 V(s1)+4 V(s2)+6 V(s3)+8 V(s4)+10 V(cout)+12
.endc