.include TSMC_180nm.txt
.param SUPPLY=1.8
.param LAMBDA=0.09u
.param width_N={20*LAMBDA}
.param Wp={width_N*2}
.global gnd vdd
VDS vdd gnd 1.8
Vina a gnd PULSE(0 1.8 1us 1ps 1ps 1us 2us)
Vinb b gnd PULSE(0 1.8 2us 1ps 1ps 2us 4us)

.subckt notg o f 
M1 o f gnd gnd CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M2 o f vdd vdd CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
.ends notg

.subckt andg o a b
M1 on a vdd vdd CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M2 on b vdd vdd CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M3 on a n1 n1 CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M4 n1 b gnd gnd CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
Xo o on notg
.ends andg

.subckt xor o a b
Xa an a notg
Xb bn b notg
M1p p1 a vdd vdd CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M2p o bn p1 p1 CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M3p p2 an vdd vdd CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M4p o b p2 p2 CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M1n o a n1 n1 CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M2n n1 b gnd gnd CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M3n o an n2 n2 CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M4n n2 bn gnd gnd CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
.ends xor

.subckt pg p0 p1 p2 p3 p4 g0 g1 g2 g3 g4 a0 a1 a2 a3 a4 b0 b1 b2 b3 b4
Xox0 p0 a0 b0 xor
Xox1 p1 a1 b1 xor
Xox2 p2 a2 b2 xor
Xox3 p3 a3 b3 xor
Xox4 p4 a4 b4 xor
Xan0 g0 a0 b0 andg
Xan1 g1 a1 b1 andg
Xan2 g2 a2 b2 andg
Xan3 g3 a3 b3 andg
Xan4 g4 a4 b4 andg
.ends pg

