.include TSMC_180nm.txt
.param SUPPLY=1.8
.param LAMBDA=0.09u
.param width_N={20*LAMBDA}
.param Wp={width_N*2}
.global gnd vdd
VDS vdd gnd 1.8
Vina a gnd PULSE(0 1.8 1us 1ps 1ps 1us 2us)
Vinb b gnd PULSE(0 1.8 2us 1ps 1ps 2us 4us)

.subckt notg o f 
M1 o f gnd gnd CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M2 o f vdd vdd CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
.ends notg

.subckt xor o a b
Xa an a notg
Xb bn b notg
M1p p1 a vdd vdd CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M2p o bn p1 p1 CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M3p p2 an vdd vdd CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M4p o b p2 p2 CMOSP W={Wp} L={2*LAMBDA} AS={5*Wp*LAMBDA} PS={10*LAMBDA+2*Wp} AD={5*Wp*LAMBDA} PD={10*LAMBDA+2*Wp}
M1n o a n1 n1 CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M2n n1 b gnd gnd CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M3n o an n2 n2 CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M4n n2 bn gnd gnd CMOSN W={width_N} L={2*LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
.ends xor

Xoxo o a b xor

.tran 0.01us 4us
.control
run
set curplottitle= Kavya-P-2024102001-xor
plot a b
plot o
.endc
